US04837334
A mixture of 4-fluoro-3-methylnitrobenzene (15.5 g), imidazole (6.8 g), and sodium carbonate (11.1 g) was heated at 100° for 24 hours in dimethylformamide (DMF). The mixture was then concentrated in vacuo, the residue was acidified to pH1 with 4M hydrochloric acid, and the resulting solution was extracted with chloroform (2×25 cm3). The aqueous phase was basified to pH10 with 2.5 M sodium hydroxide solution and the mixture was extracted with chloroform (3×100 cm3). The dried (MgSO4) organic extracts were evaporated to give a solid which was recrystallised from ethyl acetate to afford 1-(3-methyl-4-nitrophenyl)imidazole, m.p. 112°-115°, (10.0 g).

reactant | 4-fluoro-3-methylnitrobenzene | 15.5 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 11.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-methyl-4-nitrophenyl)imidazole | CC=1C=C(C=CC1[N+](=O)[O-])N1C=NC=C1 | C10H9N3O2
